US09056881B2
Methyl bis(pentafluoroethyl)phosphinate, (C2F5)2P(O)OCH3, (1.83 g; 5.8 mmol) is slowly added dropwise to dry and cooled (0° C.) triethylamine (0.59 g; 5.9 mmol) (exothermic) in a 10 ml glass flask. A yellow solid forms. The reaction mixture is diluted with 10 ml of n-hexane, warmed to room temperature and stirred for 20 min. The readily volatile constituents are removed in vacuo (10−3 mbar) at room temperature. Triethylmethylammonium bis(pentafluoroethyl)phosphinate, [CH3N(C2H5)3][(C2F5)2P(O)O], (2.19 g; 5.3 mmol) is isolated as pale-yellow solid in a yield of 91% and a purity of 99%.

reactant | Methyl bis(pentafluoroethyl)phosphinate | FC(C(F)(F)F)(F)P(OC)(=O)C(C(F)(F)F)(F)F | C5H3F10O2P
reactant | (C2F5)2P(O)OCH3 | P(=O)(C(F)(F)C(F)(F)F)(C(F)(F)C(F)(F)F)OC | C5H3F10O2P
reactant | triethylamine | 5.9 mmol, 0.59 g | C(C)N(CC)CC | C6H15N
solvent | n-hexane | 10 ml | CCCCCC | C6H14
product | Triethylmethylammonium bis(pentafluoroethyl)phosphinate | yield of 91% | FC(C(F)(F)F)(F)P([O-])(=O)C(C(F)(F)F)(F)F.C(C)[N+](C)(CC)CC | InChI=1S/C7H18N.C4HF10O2P/c1-5-8(4,6-2)7-3;5-1(6,7)3(11,12)17(15,16)4(13,14)2(8,9)10/h5-7H2,1-4H3;(H,15,16)/q+1;/p-1
